US04188484
(b) (4,6-Dichloro-2-pyrimidinyl-thio)-(N-β-hydroxyethyl)-acetamide
To a suspension of (4,6-dichloro-2-pyrimidinyl-thio)-acetic acid (2.390 g.) in anhydrous benzene (24 ml.), 1.27 ml. of oxalyl chloride in anhydrous benzene (6 ml.) was added at room temperature. The reaction mixture was heated, with agitation, to 40° C., for 30 minutes and held for another 10 minutes at 60° C. The solvent was evaporated under vacuum to give an oily residue, which was taken up again in anhydrous chloroform (50 ml.). The chloroform solution was added drop by drop to a solution of ethanolamine (1.1 ml.) in anhydrous chloroform (40 ml.) while the temperature was kept at about 15° C. The mixture was held at ambient temperature for 60 minutes and the separated solid was then filtered off. The filtrate was evaporated under vacuum to obtain a residue which was crystallised from ethyl acetate/hexane (1.5 g.), m.p. 95°-96° C.

reactant | (4,6-dichloro-2-pyrimidinyl-thio)-acetic acid | 2.390 g | ClC1=NC(=NC(=C1)Cl)SCC(=O)O | C6H4Cl2N2O2S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanolamine | 1.1 ml | C(O)CN | C2H7NO
solvent | benzene | 24 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 6 ml | C1=CC=CC=C1 | C6H6
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | (4,6-Dichloro-2-pyrimidinyl-thio)-(N-β-hydroxyethyl)-acetamide | ClC1=NC(=NC(=C1)Cl)SCC(=O)NCCO | C8H9Cl2N3O2S
